US04710507
Trans-3-Ethoxypropenoyl chloride (0.74 g) was added at 0° to a stirred solution of 4-bromo-2-methylaniline (0.93 g) in pyridine (10 cm3). After 0.5 hours water (40 cm3) was added, the solid material was filtered off, washed with water (30 cm3) and dried. The product was recrystallised from ethyl acetate to afford trans-N-(4-bromo-2-methylphenyl)-3-ethoxypropenamide, m.p. 163°-164°, (1.3 g).

reactant | Trans-3-Ethoxypropenoyl chloride | 0.74 g | C(C)O/C=C/C(=O)Cl | C5H7ClO2
reactant | 4-bromo-2-methylaniline | 0.93 g | BrC1=CC(=C(N)C=C1)C | C7H8BrN
reactant | water | 40 cm3 | O | H2O
solvent | pyridine | 10 cm3 | N1=CC=CC=C1 | C5H5N
product | trans-N-(4-bromo-2-methylphenyl)-3-ethoxypropenamide | BrC1=CC(=C(C=C1)NC(\C=C\OCC)=O)C | C12H14BrNO2
